US08455646B2
Preparation of (R)-3-(2-benzylamino-2-phenyl-acetoxy)-1-(2-oxo-2-thiophen-3-yl-ethyl)-1-azonia-bicyclo[2.2.2]octane bromide (C239)
To a solution of (R)-quinuclidin-3-yl 2-(benzylamino)-2-phenylacetate (C80) (116 mg, 0.33 mmol) in ethyl acetate (3.31 mL) and acetonitrile (3.31 mL), is added 2-bromo-1-(thiophen-3-yl)ethanone (66.5 mg, 0.32 mmol). The mixture is stirred at RT overnight. The insoluble precipitate is filtered on a buckner funnel and washed with acetonitrile. The clear solution is evaporated and purified by flash chromatography (DCM/EtOH=9/1) to obtain the title compound as a white solid (26 mg, 14% yield, bromide salt, mixture of diastereoisomers).

reactant | (R)-quinuclidin-3-yl 2-(benzylamino)-2-phenylacetate | 0.33 mmol, 116 mg | C(C1=CC=CC=C1)NC(C(=O)O[C@H]1CN2CCC1CC2)C2=CC=CC=C2 | C22H26N2O2
reactant | 2-bromo-1-(thiophen-3-yl)ethanone | 0.32 mmol, 66.5 mg | BrCC(=O)C1=CSC=C1 | C6H5BrOS
solvent | ethyl acetate | 3.31 mL | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 3.31 mL | C(C)#N | C2H3N
product | (R)-3-(2-benzylamino-2-phenyl-acetoxy)-1-(2-oxo-2-thiophen-3-yl-ethyl)-1-azonia-bicyclo[2.2.2]octane bromide | 26 mg, 14% yield | [Br-].C(C1=CC=CC=C1)NC(C(=O)O[C@H]1C[N+]2(CCC1CC2)CC(C2=CSC=C2)=O)C2=CC=CC=C2 | InChI=1S/C28H31N2O3S.BrH/c31-25(24-13-16-34-20-24)18-30-14-11-22(12-15-30)26(19-30)33-28(32)27(23-9-5-2-6-10-23)29-17-21-7-3-1-4-8-21;/h1-10,13,16,20,22,26-27,29H,11-12,14-15,17-19H2;1H/q+1;/p-1/t22?,26-,27?,30?;/m0./s1
